US07700641B2
Synthesis of 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one
To a solution of 1′-(diphenylmethyl)-5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one (0.23 g, 0.49 mmol) in methanol (50.0 mL) was added palladium on carbon (0.10 g). The mixture was hydrogenated under 120 psi of hydrogen at ambient temperature overnight. The reaction mixture was filtered through celite, washed with methanol. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/2) to give the title compound (0.10 g, 68%): mp 95-100° C.; 1H NMR (300 MHz, CDCl3) δ 8.74 (s, 1H), 7.28-7.20 (m, 1H), 7.15 (d, 1H), 7.03 (t, 1H), 6.95 (d, 1H), 6.43 (s, 1H), 6.40 (s, 1H), 4.94 (d, 1H), 4.66 (d, 1H), 4.19 (s, 2H), 1.20 (s, 3H), 1.16 (3H); 13C NMR (75 MHz, CDCl3) δ 180.4, 161.3, 161.0, 140.3, 133.0, 130.1, 128.8, 124.2, 123.4, 120.0, 116.6, 110.1, 93.4, 85.5, 80.6, 58.3, 41.4, 27.7, 27.6; MS (ES+) m/z 308.6 (M+1).

reactant | 1′-(diphenylmethyl)-5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | 0.49 mmol, 0.23 g | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)C1=C(OC2)C=C2OCC(C2=C1)(C)C)=O)C1=CC=CC=C1 | C32H27NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50.0 mL | CO | CH4O
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
product | 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | 0.10 g, 68% | CC1(C=2C(OC1)=CC=1OCC3(C(NC4=CC=CC=C34)=O)C1C2)C | C19H17NO3
